US04366160
A suspension of 9.84 g of 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine, 1.4 g of tetra-n-butylammonium sulfate and 7.56 g of 2-chloromethyl-pyridine N-oxide hydrochloride in 140 ml of toluene is treated with 30 ml of 28 percent sodium hydroxide while stirring vigorously. The temperature rises immediately to 30°. After 2 hours, the precipitate is removed by filtration under suction, washed with water and dried at 60° in vacuo. From methanol and acetonitrile there is obtained 2-([{2-[(2,6-dichlorophenyl)imino]-1-imidazol idinyl}oxy]methyl)-pyridine 1-oxide of melting point 185°-187°. The corresponding hydrochloride crystallizes from methanol/acetonitrile with 2.5 mol of hydrochloric acid and melts at 171°-173°. The corresponding cyclohexylsulfamate decomposes slowly from 159°-238°.

reactant | 2-[(2,6-dichlorophenyl)imino]-1-hydroxyimidazolidine | 9.84 g | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)O | C9H9Cl2N3O
reactant | tetra-n-butylammonium sulfate | 1.4 g | S(=O)(=O)([O-])[O-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 2-chloromethyl-pyridine N-oxide hydrochloride | 7.56 g | Cl.ClCC1=[N+](C=CC=C1)[O-]
reactant | sodium hydroxide | 30 ml | [OH-].[Na+]
solvent | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
product | 2-([{2-[(2,6-dichlorophenyl)imino]-1-imidazol idinyl}oxy]methyl)-pyridine 1-oxide | ClC1=C(C(=CC=C1)Cl)N=C1N(CCN1)OCC1=[N+](C=CC=C1)[O-] | C15H14Cl2N4O2
